US08193202B2
A. Preparation of tert-butyl 4-methyl-4-(3-sulfamoylphenylcarbamoyl)piperidine-1-carboxylate.
To a solution of 1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid (60 mg, 0.25 mmol) in dichloroethane (2.0 mL) were added DMF (2 drops) and pyridine (78 mg, 0.99 mmol), followed by oxalyl chloride (31 mg, 0.25 mmol). The mixture was stirred for 40 minutes, and 3-amino-benzenesulfonamide was added. The mixture was heated at 50° C. for 3 hours, and the mixture was cooled, diluted with dichloromethane, washed twice each with sat. aq. NaHCO3 and 1.0 N aq. HCl, dried over MgSO4, and concentrated. Silica gel chromatography (2-5% MeOH:CH2Cl2) gave the title compound in 40% yield. MS (ES+) [M+H]+=398.

reactant | 1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid | 0.25 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C | C12H21NO4
reactant | pyridine | 0.99 mmol, 78 mg | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 0.25 mmol, 31 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-amino-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
solvent | dichloroethane | 2.0 mL | ClC(C)Cl | C2H4Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 4-methyl-4-(3-sulfamoylphenylcarbamoyl)piperidine-1-carboxylate | 40% yield | CC1(CCN(CC1)C(=O)OC(C)(C)C)C(NC1=CC(=CC=C1)S(N)(=O)=O)=O | C18H27N3O5S
